US04496572
A mixture of 7-bromo-1-tetralone (4.50 g), dimethylamine hydrochloride (2.50 g), paraformaldehyde (1.0 g), ethanol (6 ml) and concentrated hydrochloric acid (4 drops) was heated under reflux for two hours and cooled. The mixture was diluted with a few ml. of acetone and the solid was filtered off, washed with a little acetone and dried to give 7-bromo-2-dimethylaminomethyl-1-tetralone hydrochloride, m.p. 169°-171°, pure enough for further reaction.

reactant | 7-bromo-1-tetralone | 4.50 g | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
reactant | dimethylamine hydrochloride | 2.50 g | Cl.CNC
reactant | paraformaldehyde | 1.0 g | C=O | CH2O
catalyst | hydrochloric acid | 4 drops | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 7-bromo-2-dimethylaminomethyl-1-tetralone hydrochloride | Cl.BrC1=CC=C2CCC(C(C2=C1)=O)CN(C)C | InChI=1S/C13H16BrNO.ClH/c1-15(2)8-10-4-3-9-5-6-11(14)7-12(9)13(10)16;/h5-7,10H,3-4,8H2,1-2H3;1H
